US05739382
2-amino-3-cyclopentylbenzenesulphonyl chloride
To a solution of 2.42 g (9.2 mmol) of triphenylphosphine in 5 ml of dichloromethane is added dropwise, at 0° C. under a nitrogen atmosphere, 0.70 ml (8.8 mmol) of sulphuryl chloride. The reaction medium is left stirring for 10 minutes at 0° C., followed by addition over 5 minutes of a solution containing 1.06 g (4.4 mmol) of 2-amino-3-cyclopentylbenzenesulphonic acid and 1.04 ml of tributylamine in 3 ml of dichloromethane. The mixture is brought to room temperature and is left at this temperature for 2 hours, then it is purified by chromatography on a column of silica gel, eluting with a dichloromethane/pentane mixture (1:1).

reactant | triphenylphosphine | 9.2 mmol, 2.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sulphuryl chloride | 8.8 mmol, 0.70 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-amino-3-cyclopentylbenzenesulphonic acid | 4.4 mmol, 1.06 g | NC1=C(C=CC=C1C1CCCC1)S(=O)(=O)O | C11H15NO3S
reactant | tributylamine | 1.04 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-amino-3-cyclopentylbenzenesulphonyl chloride | NC1=C(C=CC=C1C1CCCC1)S(=O)(=O)Cl | C11H14ClNO2S
